US05998433
c) Synthesis of 1-(2-dimethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-6-phenylhexan-1-one hydrochloride
1-(2-Dimethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-6-phenylhexan-1-one 0.294 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. After this mixture was concentrated, diethyl ether was added; the resulting solid was filtered and washed with diethyl ether to yield the desired product.

reactant | 1-(2-Dimethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-6-phenylhexan-1-one | 0.294 g | CN(C)CC1=CC=2CN(CCC2O1)C(CCCCCC1=CC=CC=C1)=O | C22H30N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 1-(2-dimethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-6-phenylhexan-1-one hydrochloride | Cl.CN(C)CC1=CC=2CN(CCC2O1)C(CCCCCC1=CC=CC=C1)=O | InChI=1S/C22H30N2O2.ClH/c1-23(2)17-20-15-19-16-24(14-13-21(19)26-20)22(25)12-8-4-7-11-18-9-5-3-6-10-18;/h3,5-6,9-10,15H,4,7-8,11-14,16-17H2,1-2H3;1H
